US06949571B2
(162b) 5-(5-acetoxypyridin-2-yl)-3-(2-cyanophenyl)-1-phenyl-1,2-dihydropyridin-2-one
3.42 g of 3-(2-cyanophenyl)-1-phenyl-5-(tri-n-butyl stannyl)-1,2-dihydropyridin-2-one, 1.57 g of 5-acetoxy-2-chloropyridine and 352 mg of tetrakistriphenylphosphine palladium were added to 40 ml of xylene, and the mixture was stirred at 120° C. in a nitrogen atmosphere for 8.5 hours. The reaction mixture was refined by silica gel chromatography (ethyl acetate/hexane-based solvent), to obtain 953 mg of the subject compound.

reactant | 3-(2-cyanophenyl)-1-phenyl-5-(tri-n-butyl stannyl)-1,2-dihydropyridin-2-one | 3.42 g | C(#N)C1=C(C=CC=C1)C=1C(N(C=C(C1)[Sn](CCCC)(CCCC)CCCC)C1=CC=CC=C1)=O
reactant | 5-acetoxy-2-chloropyridine | 1.57 g | C(C)(=O)OC=1C=CC(=NC1)Cl | C7H6ClNO2
reactant | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 5-(5-acetoxypyridin-2-yl)-3-(2-cyanophenyl)-1-phenyl-1,2-dihydropyridin-2-one | 953 mg | C(C)(=O)OC=1C=CC(=NC1)C=1C=C(C(N(C1)C1=CC=CC=C1)=O)C1=C(C=CC=C1)C#N | C25H17N3O3
